US08222266B2
Preparation 25: 2-Methanesulfonyl-4-(2-methyl-pyridin-3-yl)-pyrimidine (Prep25)
A solution of 4-(2-methyl-pyridin-3-yl)-2-methylsulfanyl-pyrimidine (530 mg, 2.44 mmol) in MeOH (18 ml) was cooled at 0° C. and then an aqueous solution of oxone (4.51 g, 7.32 mmol in 18 ml of water) was slowly added. After stirring 1.5 hours at room temperature, the mixture was basified with 5% NaHCO3 and the product was extracted with ethyl acetate. The organic phase was dried (Na2SO4) and evaporated to give 500 mg of the title compound that was used in the next step without further purification (80% yield).

reactant | 4-(2-methyl-pyridin-3-yl)-2-methylsulfanyl-pyrimidine | 2.44 mmol, 530 mg | CC1=NC=CC=C1C1=NC(=NC=C1)SC | C11H11N3S
reactant | oxone | 7.32 mmol, 18 ml, 4.51 g | OOS(=O)[O-].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 18 ml | CO | CH4O
product | 2-Methanesulfonyl-4-(2-methyl-pyridin-3-yl)-pyrimidine | 500 mg, 80% yield | CS(=O)(=O)C1=NC=CC(=N1)C=1C(=NC=CC1)C | C11H11N3O2S
